data/pmechdb/original/mc_train_fold0/raw/train.txt
C[C:20](=[O:21])OC(=[N+](C)C)N(C)C.C1=CC2=C(C=C1)N(N=N2)[O-:10].[B-](F)(F)(F)F>>C[C:20]([O-:21])(OC(=[N+](C)C)N(C)C)[O:10]N1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F 10=20;20,21=21
[Li:20]N(C(C)C)C(C)C.CC[Si](CC)(CC)C(C)C=[N:10]C(C)(C)C>>[Li-:20](N(C(C)C)C(C)C)[N+:10](=CC(C)[Si](CC)(CC)CC)C(C)(C)C 10=20,
[H:20][C:21]1(C=CC=C2[C+:22]1C=CC=C2)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC2=CC=C[C:21](=[C:22]2C=C1)[N+](=O)[O-] 10=20;20,21=21,22
[H:20][CH:21]1[C:22](=[OH+:23])C2=C(N1)C=CC=C2.C[O-:10]>>[H:20][O:10]C.C1=CC2=C(C=C1)N[CH:21]=[C:22]2[OH:23] 10=20;22,23=23;20,21=21,22
CCC(=O)[O:21][C:20](CC)(O)[O-:10]>>CC[C:20](=[O:10])O.CCC(=O)[O-:21] 10=20;20,21=21
[B:20](CCCC)(CCCC)Cl.CCC(=[O:10])C.CCN(CC)CC>>[B-:20](CCCC)(CCCC)([O+:10]=C(C)CC)Cl.CCN(CC)CC 10=20,
C1=CC=C(C=C1)C(=O)O[C:11]2=[CH:10]C=CC=C2.[N+:20](=O)=[O:21]>>C1=CC=C(C=C1)C(=O)O[C+:11]2C=CC=C[CH:10]2[N+:20](=O)[O-:21] 10,11=10,20;20,21=21
C[NH+:21]=[CH2:20].[F-:10]>>C[NH:21][CH2:20][F:10] 10=20;20,21=21
CCOC(=O)C[C:20](=[OH+:21])CC(=O)OCC.C(CO)[OH:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CCOC(=O)C[C:20](CC(=O)OCC)([OH:21])[OH+:10]CCO.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][N+:21]1=CC=CC=C1.CC(C1=CN=CC=C1)(NO)[OH:10].[Cl-]>>[H:20][OH+:10]C(C)(C1=CN=CC=C1)NO.C1=CC=[N:21]C=C1.[Cl-] 10=20;20,21=21
C1[CH:20]([OH+:21]1)CCCC[OH:10]>>C1CC[OH+:10][CH:20](C1)C[OH:21] 10=20;20,21=21
C[O+:21]=[CH:20]C1CCC2(CC1)OCCO2.[OH2:10].CC(=O)[O-]>>C[O:21][CH:20](C1CCC2(CC1)OCCO2)[OH2+:10].CC(=O)[O-] 10=20;20,21=21
CC(=O)C1=C2C=C[CH:11]=[CH:10]C2=CC=C1.O[S+:20](=O)=O>>CC(=O)C1=C2C=C[CH+:11][CH:10](C2=CC=C1)[S:20](=O)(=O)O 10,11=10,20
C[C+:20](C)CC[C:11]1=[CH:10]C=CC=C1.O.[O-]S(=O)(=O)F>>C[C:20]1(CC[C+:11]2[CH:10]1C=CC=C2)C.O.[O-]S(=O)(=O)F 10,11=10,20
[H:20][NH2+:21]C(C(C)C(CCC(=O)OC)C(=O)C)O.[NH3:10].C(=O)(O)[O-]>>[H:20][NH3+:10].CC(C(CCC(=O)OC)C(=O)C)C([NH2:21])O.C(=O)(O)[O-] 10=20;20,21=21
C[As+](C)(C)[CH:21]=[CH2:20].[OH-:10]>>C[As+](C)(C)[CH-:21][CH2:20][OH:10] 10=20;20,21=21
CC(=O)[O:21][C:20](C)(C#N)[O-:10]>>C[C:20](=[O:10])C#N.CC(=O)[O-:21] 10=20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)[O:21][CH:20]2CC(CC(C2OC(=[O:10])C)C3CCCCC3)C4CCCCC4>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CC1=[O+:10][CH:20]2CC(CC(C2O1)C3CCCCC3)C4CCCCC4 10=20;20,21=21
[H:10][BH2-:11]C#N.C1=CC=C(C=C1)C[N+:21](=[CH:20]C2=CC=CC=C2)[OH+].[Na+].[Cl-]>>[H:10][CH:20](C1=CC=CC=C1)[N:21](CC2=CC=CC=C2)[OH+].[BH2:11]C#N.[Na+].[Cl-] 10,11=10,20;20,21=21
C1[CH2:11][N:10]2CCN1CC2.C1=CC(=CC=C1[CH2:20][Cl:21])C#N>>[CH2+:11]CN1CC[N:10](CC1)[CH2:20]C2=CC=C(C=C2)C#N.[Cl-:21] 10,11=10,20;20,21=21
[H:20][C:21]1(C=C(O[CH+:22]1)C(F)(F)F)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]OC(=C1)C(F)(F)F 10=20;20,21=21,22
[H:20][O:21]C(=O)C.C[O:10]C(C1CCC2(CC1)OCCO2)O.O>>[H:20][O+:10](C)C(C1CCC2(CC1)OCCO2)O.CC(=O)[O-:21].O 10=20;20,21=21
C[N:10]=[N:20][OH2+:21].[Cl-]>>C[N+:10]#[N:20].[OH2:21].[Cl-] 10=20;20,21=21
CCO[C:11]1=[CH:10]C=CC=C1.[Br:20][Br:21]>>CCO[C+:11]1C=CC=C[CH:10]1[Br:20].[Br-:21] 10,11=10,20;20,21=21
COC1=CC2=C(C=C1)C(C([C+:20]2C3=CC=CC=C3)CCC#[N:10])C(=O)OC.CS(=O)(=O)[O-].O>>COC1=CC2=C(C=C1)C(C3[C:20]2([N+:10]#CCC3)C4=CC=CC=C4)C(=O)OC.CS(=O)(=O)[O-].O 10=20,
C[CH+]C[Si:20](C)(C)C.C[O:10][Ti-]>>C[CH+]C[Si-:20](C)(C)(C)[O+:10](C)[Ti-] 10=20,
CC(=O)O[C:20](=[O:21])CCC=O.C[NH2:10]>>CC(=O)O[C:20](CCC=O)([NH2+:10]C)[O-:21] 10=20;20,21=21
[H:20][O:21]C(=O)C.CC1(C2=C(C=C(C(=C2)N3CCN(CC3)C4(COC4)[OH:10])Br)C(=O)C5=C1NC6=CC=CC=C65)C.[BH3-]C#N.CO>>[H:20][OH+:10]C1(COC1)N2CCN(CC2)C3=CC4=C(C=C3Br)C(=O)C5=C(C4(C)C)NC6=CC=CC=C65.CC(=O)[O-:21].[BH3-]C#N.CO 10=20;20,21=21
[Li:10][O+:11](C)CCC>>[Li+:10].CCC[O:11]C 10,11=11
[B-]([O+]=C1CCC[C:10]2([CH:11]1C(=C)C2)C(C)(C)C)(Cl)(Cl)Cl>>[B-]([O+]=C1CCC[C+:10](CC(=C)[CH-:11]1)C(C)(C)C)(Cl)(Cl)Cl 10,11=11
CCCP1(=O)OP(=O)(O[P:20](=[O:21])(O1)CCC)CCC.C1=CC2=C(C=C1)C3=C(C2COC(=O)NCC(=O)[O-:10])C=CC=C3.CC[NH+](CC)CC.C1=C(C=C(C(=C1)N)I)Cl>>CCCP1(=O)OP(=O)(O[P:20](O1)(CCC)([O-:21])[O:10]C(=O)CNC(=O)OCC2C3=C(C=CC=C3)C4=C2C=CC=C4)CCC.CC[NH+](CC)CC.C1=C(C=C(C(=C1)N)I)Cl 10=20;20,21=21
[CH:20](=[NH2+:21])[NH2:10]>>[CH:20](=[NH2+:10])[NH2:21] 10=20;20,21=21
CC(=O)OC12CCCCC1C3(C2CCCC3[OH:10])O.C[S:20](=O)(=[O:21])Cl.C1=CC=NC=C1>>CC(=O)OC12CCCCC1C3(C2CCCC3[OH+:10][S:20](=O)(C)([O-:21])Cl)O.C1=CC=NC=C1 10=20;20,21=21
CCC[NH+:21]1C(=O)C2=C([C:20]1(O)[OH:10])C=CC=C2>>CCC[NH:21]C(=O)C1=C(C=CC=C1)[C:20](=[OH+:10])O 10=20;20,21=21
[H:20][O:21]C(C[CH:10]=[C:11](COC(=O)C)[O-:12])(C1=CC=CC=C1)C2=[N+](C(=C(S2)CCO)C)CC3=CC=CC=C3.CC[NH+](CC)CC.[Cl-]>>[H:20][CH:10](CC(C1=CC=CC=C1)(C2=[N+](C(=C(S2)CCO)C)CC3=CC=CC=C3)[O-:21])[C:11](=[O:12])COC(=O)C.CC[NH+](CC)CC.[Cl-] 10,11=10,20;20,21=21;12=11
C1C(C(C([O:10][CH:20]1[OH2+:21])CO)O)O.[Cl-]>>C1[CH:20]=[O+:10]C(C(C1O)O)CO.[OH2:21].[Cl-] 10=20;20,21=21
C[CH+]C(C)[Si:20](C)(C)C.C(=O)(C(F)(F)F)[O-:10].C(=O)(C(F)(F)F)O>>C[CH+]C(C)[Si-:20](C)(C)(C)[O:10]C(=O)C(F)(F)F.C(=O)(C(F)(F)F)O 10=20,
CC1=C[CH:10]=[C:11](O1)C.O[S+:20](=O)=O>>CC1=C[CH:10]([C+:11](O1)C)[S:20](=O)(=O)O 10,11=10,20
